US03950353
N-Methyl-N'-[2-(3-pyrazolylmethylthio)ethyl]urea
By the procedure of Example 24, 3-[(2-aminoethyl)-thiomethyl]pyrazole is reacted with methyl isocyanate to give the title compound.

reactant | 3-[(2-aminoethyl)-thiomethyl]pyrazole | NCCSCC1=NNC=C1 | C6H11N3S
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | N-Methyl-N'-[2-(3-pyrazolylmethylthio)ethyl]urea | CNC(=O)NCCSCC1=NNC=C1 | C8H14N4OS
